US06344459B1
2-Chloro-3-nitrobenzamide:
DMF (3 drops) was added to a mixture of 2-chloro-3-nitrobezoic acid (0.99 g, 4.9 mmol), oxalyl chloride (0.47 mL, 5.4 mmol) in CH2Cl2 (20 mL) at 25° C. stirring under N2. After gas formation ceased, all the solid went into solution. After 3 hours the solvent was removed under reduced pressure to leave a light yellow solid which was treated with cold NH4OH (20 mL). 2-Chloro-3-nitrobenzamide was collected as an off-white solid (1.02 g, 100%).

reactant | 2-chloro-3-nitrobezoic acid | 4.9 mmol, 0.99 g | ClC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H4ClNO4
reactant | oxalyl chloride | 5.4 mmol, 0.47 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NH4OH | 20 mL | [NH4+].[OH-]
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-3-nitrobenzamide | ClC1=C(C(=O)N)C=CC=C1[N+](=O)[O-] | C7H5ClN2O3
